US04267176
Selenium oxide (9.92 g.) was added to a solution of methyl 2-(2-formamidopyrimidin-4-yl)acetate (14.52 g.) in dioxane (200 ml.) at 90° to 95° C. over 20 minutes, and stirred at the same temperature for an hour. After cooling the resultant solution, the solution was filtered through a column packed with silica gel (20 g.), washed with dioxane and concentrated under reduced pressure. The residue was dissolved in acetone and filtered, and then the filtrate was concentrated under reduced pressure. The residue was triturated with chloroform to give a crude product (8.2 g.). The product was added to ethyl acetate, heated and an insoluble material was filtered out. The filtrate was cooled, and the precipitates were collected by filtration to give methyl 2-(2-formamidopyrimidin-4-yl)glyoxylate (5.55 g.). The product was recrystallized from ethyl acetate (saturated with water) to give mono hydrate thereof, mp 143° to 144° C.

reactant | Selenium oxide | 9.92 g | [Se]=O | OSe
reactant | methyl 2-(2-formamidopyrimidin-4-yl)acetate | 14.52 g | C(=O)NC1=NC=CC(=N1)CC(=O)OC | C8H9N3O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | methyl 2-(2-formamidopyrimidin-4-yl)glyoxylate | 5.55 g | C(=O)NC1=NC=CC(=N1)C(C(=O)OC)=O | C8H7N3O4
